T1 (net119 net116 net116 0) pfet L=1.76E-6 W=4.94E-6
T2 (net29 net89 net89 0) pfet L=0.29E-6 W=1.60E-6
T3 ( net56 net56 vdd! vdd!)  pfet  L=2.93E-6 W=2.84E-6
T4 ( net17 net56 vdd! vdd!)  pfet  L=2.93E-6 W=2.84E-6
R5 ( net17 net122)  R=3.8E0
C6 (net101 net6) C=8.0E-10
T7 (vdd! net9 net9 0) nfet L=2.38E-6 W=0.94E-6
R8 ( net69 net127)  R=7.3E0
T9 ( net127 net127 vdd! vdd!)  pfet  L=0.50E-6 W=6.71E-6
T10 ( net5 net127 vdd! vdd!)  pfet  L=0.50E-6 W=6.71E-6
T11 (net86 vdd! vdd! 0) nfet L=3.76E-6 W=8.26E-6
C12 (net75 net80) C=1.2E-11
C13 (vdd! net24) C=7.3E-13
T14 (net69 vdd! vdd! 0) pfet L=4.57E-6 W=8.20E-6
T15 (net107 net102 net102 0) nfet L=6.09E-6 W=5.51E-6
C16 (net90 net97) C=6.3E-12
R17 (net121 net119) R=6.2E2
R18 (net101 net39) R=2.5E2
C19 (net71 net120) C=1.9E-7
C20 (net112 net7) C=2.8E-11
T21 (net54 net58 net58 0) pfet L=4.53E-6 W=2.26E-6
R22 (net67 net88) R=2.3E4
T23 (net70 net66 net66 0) nfet L=8.53E-6 W=1.69E-6
C24 (net107 net57) C=3.4E-7
R25 (net41 net19) R=6.5E3
C26 (net118 net15) C=3.4E-9
T27 (net100 net102 net102 0) pfet L=1.33E-6 W=2.63E-6
R28 (net64 net53) R=8.0E4
R29 (vdd! 0) R=8.3E4
T30 (net97 0 0 0) nfet L=2.92E-6 W=8.42E-6
T31 (net109 net77 net77 0) pfet L=1.04E-6 W=6.73E-6
C32 (net121 net22) C=0.8E-5
R33 (net58 net106) R=8.8E6
T34 (0 net32 net32 0) pfet L=5.91E-6 W=2.53E-6
C35 (net84 net66) C=3.2E-14
R36 (net34 net96) R=4.1E6
R37 (net62 net18) R=2.5E2
C38 (net56 net32) C=2.8E-10
R39 (net96 net31) R=3.4E2
T40 (net66 net38 net38 0) pfet L=5.99E-6 W=0.64E-6
T41 (vdd! net21 net21 0) nfet L=4.90E-6 W=9.35E-6
C42 (net44 net98) C=7.3E-5
T43 (net54 net23 net23 0) pfet L=7.37E-6 W=2.53E-6
R44 (net79 net100) R=2.7E1
R45 (0 net24) R=8.9E4
T46 (net106 net47 net47 0) nfet L=6.34E-6 W=4.94E-6
T47 (net60 net89 net89 0) nfet L=1.23E-6 W=5.92E-6
R48 (net10 net49) R=4.7E4
C49 (net113 vdd!) C=2.4E-5
R50 (vdd! net124) R=0.2E3
T51 (net70 net126 net126 0) pfet L=1.66E-6 W=2.77E-6
T52 (0 net83 net83 0) nfet L=7.16E-6 W=7.83E-6
T53 (net81 0 0 0) pfet L=3.90E-6 W=5.14E-6
T54 (net86 net59 net59 0) pfet L=2.27E-6 W=4.30E-6
T55 (net16 net125 net125 0) pfet L=7.94E-6 W=5.86E-6
T56 (net43 net83 net83 0) pfet L=0.83E-6 W=2.24E-6
T57 (net108 vdd! vdd! 0) pfet L=4.52E-6 W=6.30E-6
R58 (net9 net13) R=7.2E5
T59 (net7 net41 net41 0) nfet L=1.13E-6 W=9.67E-6
T60 (net111 net69 net69 0) nfet L=4.42E-6 W=1.06E-6
T61 (net80 net105 net105 0) nfet L=3.13E-6 W=5.43E-6
R62 (vdd! net123) R=7.3E6
T63 (net88 net61 net61 0) pfet L=8.96E-6 W=3.40E-6
T64 (net31 net72 net72 0) nfet L=8.59E-6 W=1.28E-6
T65 (net122 vdd! vdd! 0) pfet L=5.74E-6 W=8.43E-6
R66 (net40 net79) R=2.6E5
T67 (net50 net82 net82 0) pfet L=8.94E-6 W=4.44E-6
T68 (net116 net85 net85 0) pfet L=5.05E-6 W=2.94E-6
R69 (net103 0) R=1.9E3
T70 (net8 net67 net67 0) nfet L=2.39E-6 W=3.28E-6
C71 (net2 net15) C=1.0E-6
T72 (net54 net94 net94 0) pfet L=7.30E-6 W=7.78E-6
R73 (net27 net125) R=6.2E5
R74 (net125 net50) R=5.4E6
R75 (net75 net28) R=5.9E0
T76 (net58 net57 net57 0) nfet L=3.66E-6 W=2.00E-6
T77 (net66 net45 net45 0) pfet L=4.28E-6 W=7.41E-6
T78 (net61 net33 net33 0) pfet L=6.04E-6 W=9.48E-6
T79 (net35 net53 net53 0) nfet L=3.99E-6 W=8.70E-6
C80 (net118 net67) C=7.3E-14
R81 (net37 net65) R=9.7E1
R82 (net89 net95) R=1.9E1
R83 (net95 net78) R=6.3E3
T84 (net46 0 0 0) nfet L=1.00E-6 W=1.32E-6
C85 (net55 net13) C=7.4E-14
T86 (net48 net110 net110 0) pfet L=7.92E-6 W=7.01E-6
T87 (net51 net109 net109 0) nfet L=7.39E-6 W=4.45E-6
T88 (net11 net128 net128 0) pfet L=1.03E-6 W=9.65E-6
C89 (net110 net30) C=3.0E-10
C90 (net23 net87) C=8.8E-6
T91 (net58 net15 net15 0) pfet L=6.71E-6 W=4.89E-6
T92 (net27 vdd! vdd! 0) pfet L=9.10E-6 W=6.36E-6
C93 (net7 net98) C=2.8E-13
C94 (net33 net86) C=5.3E-12
R95 (net1 net100) R=6.4E6
T96 (net96 net57 net57 0) pfet L=2.69E-6 W=1.23E-6
T97 (vdd! net81 net81 0) pfet L=8.94E-6 W=3.58E-6
T98 (net30 net22 net22 0) pfet L=8.50E-6 W=6.26E-6
T99 (net87 net29 net29 0) nfet L=9.47E-6 W=1.48E-6
R100 (net9 net84) R=1.2E1
C101 (net24 net14) C=7.1E-6
T102 (vdd! net107 net107 0) pfet L=3.96E-6 W=1.94E-6
C103 (net96 net66) C=4.3E-12
R104 (net61 net75) R=6.6E2
T105 (net84 net83 net83 0) nfet L=2.59E-6 W=7.70E-6
T106 (net102 net36 net36 0) nfet L=7.28E-6 W=0.81E-6
T107 (net31 net60 net60 0) pfet L=5.20E-6 W=4.00E-6
C108 (net67 net20) C=5.1E-9
T109 (net72 net112 net112 0) pfet L=5.47E-6 W=2.64E-6
T110 (net15 net25 net25 0) pfet L=9.26E-6 W=4.15E-6
C111 (net124 net88) C=8.3E-13
R112 (net39 net85) R=3.5E0
R113 (net88 net86) R=9.7E1
T114 (net12 net33 net33 0) pfet L=2.57E-6 W=7.90E-6
R115 (net122 net101) R=8.7E0
T116 (net62 net23 net23 0) pfet L=8.29E-6 W=4.59E-6
T117 (net83 net2 net2 0) pfet L=0.63E-6 W=9.74E-6
C118 (net56 net16) C=3.1E-5
T119 (net60 net56 net56 0) pfet L=7.09E-6 W=6.69E-6
T120 (net27 net78 net78 0) pfet L=4.30E-6 W=8.63E-6
R121 (net108 vdd!) R=6.5E1
C122 (0 net59) C=2.4E-6
T123 (net112 net22 net22 0) pfet L=7.79E-6 W=1.20E-6
T124 (net65 vdd! vdd! 0) pfet L=6.32E-6 W=0.98E-6
C125 (net60 net7) C=4.1E-11
T126 (net86 net118 net118 0) pfet L=6.34E-6 W=3.96E-6
R127 (net76 net80) R=4.8E5
T128 (net88 net105 net105 0) nfet L=4.89E-6 W=9.29E-6
R129 (net72 0) R=1.4E2
C130 (net37 net36) C=5.4E-8
C131 (net111 net124) C=3.9E-10
T132 (net49 net51 net51 0) nfet L=5.85E-6 W=4.54E-6
T133 (net124 net66 net66 0) nfet L=5.05E-6 W=7.78E-6
C134 (vdd! net115) C=1.9E-5
T135 (net45 net110 net110 0) nfet L=6.47E-6 W=4.46E-6
T136 (net2 net5 net5 0) pfet L=7.29E-6 W=4.63E-6
C137 (net70 0) C=9.1E-7
C138 (net26 net75) C=4.5E-7
C139 (net15 net64) C=2.3E-10
R140 (net14 net120) R=5.0E2
C141 (net91 net54) C=1.3E-14
T142 (net32 net26 net26 0) nfet L=7.72E-6 W=7.86E-6
T143 (vdd! net100 net100 0) pfet L=6.33E-6 W=4.05E-6
T144 (net38 net2 net2 0) nfet L=2.20E-6 W=6.73E-6
T145 (net68 net34 net34 0) pfet L=8.64E-6 W=7.49E-6
R146 (net107 net49) R=6.5E2
R147 (net115 net11) R=2.9E6
T148 (net76 net22 net22 0) pfet L=1.05E-6 W=8.63E-6
T149 (net12 net82 net82 0) nfet L=6.23E-6 W=8.98E-6
T150 (net5 net112 net112 0) pfet L=9.31E-6 W=8.45E-6
T151 (net1 net62 net62 0) pfet L=3.14E-6 W=5.92E-6
C152 (net61 net40) C=3.9E-8
R153 (0 net37) R=6.6E6
R154 (net32 net1) R=8.5E2
C155 (net100 net126) C=6.3E-5
R156 (vdd! net118) R=8.9E0
T157 (net56 net115 net115 0) nfet L=5.56E-6 W=0.20E-6
T158 (net30 net96 net96 0) pfet L=4.83E-6 W=3.79E-6
T159 (net5 net16 net16 0) pfet L=5.99E-6 W=2.95E-6
T160 (net40 0 0 0) nfet L=4.56E-6 W=6.26E-6
T161 (0 net126 net126 0) pfet L=4.23E-6 W=6.23E-6
R162 (net90 net41) R=2.3E5
T163 (net120 net39 net39 0) pfet L=9.53E-6 W=3.75E-6
T164 (net95 net119 net119 0) nfet L=9.88E-6 W=6.88E-6
R165 (net83 net47) R=4.5E6
T166 (0 vdd! vdd! 0) pfet L=2.72E-6 W=3.99E-6
C167 (net66 vdd!) C=4.5E-8
T168 (net94 net27 net27 0) nfet L=3.65E-6 W=9.11E-6
R169 (net110 net61) R=0.3E1
T170 (net21 vdd! vdd! 0) nfet L=6.80E-6 W=0.49E-6
C171 (net30 net32) C=6.7E-9
R172 (net68 net103) R=4.9E4
T173 (net14 net4 net4 0) pfet L=6.04E-6 W=3.27E-6
R174 (net98 net95) R=8.2E2
T175 (net44 net23 net23 0) pfet L=7.39E-6 W=3.20E-6
R176 (net101 net93) R=2.2E2
T177 (net35 net126 net126 0) nfet L=8.96E-6 W=8.42E-6
C178 (net115 net62) C=2.2E-9
T179 (0 net103 net103 0) pfet L=7.36E-6 W=1.74E-6
T180 (net120 net13 net13 0) pfet L=0.38E-6 W=8.87E-6
R181 (net31 net24) R=1.3E6
T182 (net115 net89 net89 0) nfet L=1.32E-6 W=2.56E-6
C183 (net48 net122) C=8.5E-12
C184 (net114 net69) C=0.9E-6
C185 (net109 net82) C=0.1E-9
T186 (0 vdd! vdd! 0) nfet L=2.00E-6 W=6.56E-6
C187 (net13 0) C=3.5E-10
T188 (net7 net121 net121 0) pfet L=8.05E-6 W=5.49E-6
C189 (net36 0) C=2.4E-14
C190 (net40 net84) C=6.4E-11
T191 (net104 net27 net27 0) nfet L=5.77E-6 W=4.23E-6
C192 (net2 net83) C=8.1E-14
T193 (net9 net2 net2 0) nfet L=3.33E-6 W=0.62E-6
C194 (net87 net128) C=1.6E-11
R195 (net60 net85) R=5.9E6
C196 (net70 net108) C=2.1E-13
R197 (net61 net60) R=1.6E2
R198 (net59 net5) R=9.5E3
T199 (net60 net11 net11 0) pfet L=6.20E-6 W=1.38E-6
C200 (net12 net71) C=0.2E-11
C201 (net53 net124) C=2.8E-9
R202 (net58 net95) R=3.2E4
C203 (net110 vdd!) C=9.6E-12
R204 (net104 net52) R=3.2E5
R205 (net89 net94) R=1.8E3
T206 (net128 net86 net86 0) nfet L=1.23E-6 W=3.18E-6
C207 (net123 net31) C=1.0E-14
R208 (net113 net110) R=7.7E1
R209 (net38 vdd!) R=7.0E5
T210 (net13 net87 net87 0) pfet L=9.83E-6 W=4.91E-6
R211 (net85 net47) R=0.6E3
T212 (net112 net22 net22 0) pfet L=8.93E-6 W=8.15E-6

