T1 (net24 net26 net26 0) pfet L=9.43E-6 W=8.90E-6
T2 (net10 net24 net24 0) pfet L=9.25E-6 W=8.15E-6
T3 ( net18 net18 vdd! vdd!)  pfet  L=3.25E-6 W=9.24E-6
T4 ( net20 net18 vdd! vdd!)  pfet  L=3.25E-6 W=9.24E-6
R5 ( net20 net23)  R=4.3E1
T6 (net4 net26 net26 0) nfet L=9.86E-6 W=2.08E-6
C7 (net14 net21) C=5.8E-6
T8 (0 net21 net21 0) nfet L=2.50E-6 W=4.13E-6
R9 (net5 net13) R=5.2E3
T10 (net9 net23 net23 0) pfet L=8.32E-6 W=1.94E-6
T11 (net4 net15 net15 0) pfet L=6.57E-6 W=9.53E-6
T12 (net12 net9 net9 0) pfet L=2.71E-6 W=9.38E-6
T13 (net26 net7 net7 0) nfet L=7.89E-6 W=8.46E-6
T14 ( net21 net21 0 0)  nfet  L=9.49E-6 W=1.58E-6
T15 ( net14 net21 0 0)  nfet  L=9.49E-6 W=1.58E-6
R16 ( net14 net10)  R=9.4E0
T17 (net9 net26 net26 0) nfet L=9.90E-6 W=4.02E-6
T18 (net21 net21 net21 0) nfet L=5.25E-6 W=0.79E-6
T19 (net24 net13 net13 0) pfet L=3.78E-6 W=2.01E-6
T20 (net6 net2 net2 0) nfet L=5.14E-6 W=1.71E-6
C21 (net7 net18) C=9.6E-7
T22 (net6 net24 net24 0) nfet L=6.07E-6 W=1.89E-6
C23 (net25 net24) C=7.4E-10
T24 (net9 net22 net22 0) pfet L=3.69E-6 W=7.02E-6
C25 (net23 net16) C=4.1E-8
R26 (net26 net9) R=3.3E5
C27 (net11 net1) C=0.4E-8
T28 (net2 net2 net2 0) pfet L=6.78E-6 W=7.04E-6
C29 (net11 net3) C=4.5E-13
C30 (net2 net24) C=2.3E-9
T31 (net4 net19 net19 0) nfet L=8.63E-6 W=2.95E-6
R32 (net19 net5) R=6.4E2
T33 (net18 net4 net4 0) pfet L=7.17E-6 W=3.46E-6
T34 (net2 net26 net26 0) nfet L=2.68E-6 W=6.15E-6
R35 (net3 net5) R=7.2E6
R36 (net11 net5) R=8.6E0
C37 (net10 net18) C=9.4E-5
R38 (net23 net9) R=9.5E3
C39 (net15 net10) C=2.7E-11
C40 (net13 net9) C=6.5E-7
R41 (net26 net1) R=5.8E3
R42 (net4 net11) R=6.1E5
R43 (net13 net21) R=4.5E1
T44 (0 net21 net21 0) pfet L=0.76E-6 W=8.10E-6
T45 (net6 net24 net24 0) pfet L=1.22E-6 W=5.51E-6
C46 (net7 net10) C=6.5E-6
T47 (net23 net26 net26 0) nfet L=3.35E-6 W=6.34E-6
R48 (vdd! net19) R=2.1E1
T49 (net23 net23 net23 0) pfet L=7.71E-6 W=6.01E-6
C50 (net19 net26) C=3.8E-6
C51 (net21 net6) C=4.3E-6
T52 (net12 net16 net16 0) pfet L=8.22E-6 W=6.28E-6
T53 (net23 net24 net24 0) nfet L=6.48E-6 W=9.50E-6
C54 (net2 net10) C=6.3E-8
T55 (net26 net22 net22 0) nfet L=3.54E-6 W=8.94E-6
T56 (net6 0 0 0) nfet L=6.19E-6 W=3.13E-6
C57 (net3 net22) C=4.0E-14
T58 (0 net2 net2 0) nfet L=2.32E-6 W=6.07E-6
C59 (net26 net23) C=1.0E-8
C60 (net8 net12) C=6.0E-5
C61 (vdd! net4) C=6.6E-14
R62 (net17 0) R=6.6E5
T63 (net7 net2 net2 0) pfet L=3.66E-6 W=4.21E-6
T64 (net6 net12 net12 0) nfet L=3.46E-6 W=7.38E-6
T65 (net23 net16 net16 0) nfet L=6.41E-6 W=0.83E-6
R66 (net12 net3) R=8.5E6
T67 (net23 net26 net26 0) pfet L=0.32E-6 W=3.54E-6
T68 (net11 net22 net22 0) nfet L=5.82E-6 W=1.28E-6
T69 (net6 net7 net7 0) pfet L=5.71E-6 W=4.70E-6
R70 (net24 net11) R=9.6E1
T71 (net12 net19 net19 0) nfet L=3.55E-6 W=2.64E-6
C72 (net6 0) C=8.6E-8
T73 (net4 0 0 0) pfet L=2.58E-6 W=7.55E-6
C74 (net7 net24) C=1.6E-13
T75 (net21 net24 net24 0) pfet L=9.86E-6 W=4.14E-6
R76 (net24 net5) R=7.5E4
R77 (net9 net10) R=3.3E5
T78 (net26 net6 net6 0) pfet L=4.00E-6 W=8.22E-6
C79 (net4 net16) C=4.1E-7
T80 (net24 0 0 0) nfet L=2.44E-6 W=0.33E-6
T81 (net22 net1 net1 0) nfet L=5.77E-6 W=3.90E-6
T82 (net6 net16 net16 0) nfet L=1.89E-6 W=1.57E-6
C83 (net3 net21) C=6.9E-11
C84 (net26 net11) C=2.1E-13
T85 (net2 net26 net26 0) nfet L=5.85E-6 W=5.69E-6
C86 (net11 net4) C=8.3E-6
R87 (net7 net5) R=4.8E5
T88 (net17 net22 net22 0) pfet L=6.00E-6 W=9.13E-6
R89 (0 net6) R=5.5E6
R90 (net4 net24) R=9.2E2
T91 (0 net9 net9 0) nfet L=6.99E-6 W=9.47E-6
T92 (vdd! vdd! vdd! 0) nfet L=5.15E-6 W=9.00E-6
C93 (net2 net10) C=5.9E-11
R94 (net7 net5) R=5.5E1
T95 (net6 net21 net21 0) pfet L=5.30E-6 W=9.30E-6
C96 (net24 net13) C=5.5E-10
T97 (net2 net12 net12 0) nfet L=3.72E-6 W=0.64E-6
T98 (net8 net3 net3 0) nfet L=9.89E-6 W=8.99E-6
R99 (net3 net22) R=7.4E1
R100 (net26 net6) R=7.4E5
T101 (net17 net19 net19 0) pfet L=4.76E-6 W=4.09E-6
R102 (net13 net5) R=7.5E0
T103 (net7 net26 net26 0) pfet L=1.62E-6 W=1.97E-6
R104 (net1 net9) R=5.7E6
T105 (net16 net3 net3 0) nfet L=0.61E-6 W=5.48E-6
R106 (net1 vdd!) R=1.7E1
T107 (net19 net4 net4 0) nfet L=2.43E-6 W=4.66E-6
T108 (net5 0 0 0) pfet L=9.99E-6 W=7.90E-6
R109 (net26 net1) R=4.6E3
R110 (net17 net15) R=9.3E5
R111 (0 net19) R=2.1E1
T112 (net15 net3 net3 0) nfet L=9.80E-6 W=6.78E-6
T113 (net25 net1 net1 0) nfet L=7.18E-6 W=6.34E-6
T114 (net2 net12 net12 0) nfet L=7.36E-6 W=5.13E-6
R115 (net21 net6) R=2.3E2
R116 (net3 net19) R=6.0E1
R117 (net6 net15) R=8.3E0
C118 (net4 vdd!) C=4.3E-10
C119 (net10 net18) C=9.7E-5
T120 (net2 net8 net8 0) pfet L=8.95E-6 W=2.84E-6
T121 (net18 net26 net26 0) pfet L=3.87E-6 W=0.94E-6
T122 (net2 net16 net16 0) pfet L=5.54E-6 W=5.85E-6
C123 (net19 net24) C=2.8E-5
T124 (net6 net26 net26 0) pfet L=8.31E-6 W=1.90E-6
T125 (net26 net17 net17 0) pfet L=0.64E-6 W=4.99E-6
T126 (net15 net7 net7 0) nfet L=3.05E-6 W=5.84E-6
C127 (0 net7) C=2.6E-7
C128 (net19 net15) C=5.3E-10
R129 (net23 vdd!) R=1.9E2
C130 (net18 0) C=0.2E-14
T131 (net23 net7 net7 0) nfet L=3.15E-6 W=9.43E-6
R132 (net17 net15) R=0.4E5
T133 (net15 net11 net11 0) nfet L=9.53E-6 W=7.58E-6
T134 (net2 net13 net13 0) nfet L=4.98E-6 W=4.57E-6
T135 (net12 net8 net8 0) nfet L=7.34E-6 W=5.91E-6
C136 (vdd! net8) C=9.4E-10
T137 (net19 0 0 0) nfet L=5.21E-6 W=3.55E-6
T138 (net7 vdd! vdd! 0) pfet L=3.85E-6 W=3.85E-6
R139 (net6 net19) R=8.4E3
T140 (net9 net9 net9 0) nfet L=8.98E-6 W=0.62E-6
R141 (net21 net8) R=7.2E5
C142 (0 net10) C=8.3E-13
C143 (net13 0) C=4.8E-6
R144 (net10 net24) R=8.9E0
C145 (net25 net2) C=8.3E-7
T146 (net15 net24 net24 0) pfet L=8.64E-6 W=8.69E-6
C147 (net3 net4) C=2.8E-14
T148 (net21 net8 net8 0) pfet L=9.37E-6 W=3.87E-6
T149 (net26 vdd! vdd! 0) pfet L=5.91E-6 W=0.92E-6
T150 (net22 net8 net8 0) nfet L=0.59E-6 W=1.81E-6
R151 (net7 net3) R=7.2E4
C152 (net16 net25) C=1.8E-5
R153 (net17 net4) R=4.9E3
T154 (net11 net1 net1 0) pfet L=7.86E-6 W=6.29E-6
T155 (net12 net11 net11 0) nfet L=5.60E-6 W=7.53E-6
R156 (net11 vdd!) R=6.6E3
C157 (net3 net7) C=4.5E-13
C158 (net1 net16) C=3.1E-11
C159 (net24 vdd!) C=9.1E-7
C160 (net24 net23) C=4.3E-6
R161 (net9 net25) R=6.5E4
C162 (net26 net3) C=7.0E-5
T163 (net3 net9 net9 0) pfet L=8.77E-6 W=8.67E-6
R164 (net19 net1) R=3.9E1
T165 (net22 net3 net3 0) nfet L=0.68E-6 W=0.28E-6
T166 (net5 net5 net5 0) pfet L=6.67E-6 W=8.98E-6
C167 (net6 net26) C=1.2E-12
T168 (net7 net6 net6 0) pfet L=1.92E-6 W=1.57E-6
T169 (net7 net8 net8 0) pfet L=1.07E-6 W=0.73E-6
T170 (net16 net24 net24 0) pfet L=5.46E-6 W=2.33E-6
R171 (0 net3) R=4.0E6
T172 (net26 net2 net2 0) nfet L=8.65E-6 W=9.06E-6
R173 (net13 net23) R=8.5E0
C174 (net21 net6) C=5.0E-6
T175 (net23 net4 net4 0) pfet L=4.39E-6 W=1.93E-6
C176 (net21 net7) C=5.6E-13
T177 (net19 net17 net17 0) pfet L=6.46E-6 W=9.53E-6
C178 (net18 net1) C=5.9E-5
T179 (net4 net1 net1 0) pfet L=9.21E-6 W=4.77E-6
R180 (net10 net4) R=6.4E4
T181 (net8 net8 net8 0) pfet L=6.61E-6 W=7.33E-6
R182 (net15 net2) R=6.1E3
T183 (net16 net16 net16 0) nfet L=8.28E-6 W=6.07E-6
C184 (vdd! net2) C=5.5E-9
T185 (0 net19 net19 0) pfet L=8.08E-6 W=8.08E-6
T186 (net24 net8 net8 0) nfet L=4.76E-6 W=3.06E-6
C187 (net6 net19) C=1.7E-6
C188 (net17 net18) C=4.2E-8
C189 (net13 net17) C=8.0E-14
R190 (net15 net26) R=4.4E0
C191 (net13 net26) C=7.8E-10
T192 (net15 net9 net9 0) nfet L=3.27E-6 W=4.68E-6
C193 (net24 net16) C=1.5E-9
C194 (vdd! net22) C=6.2E-12
R195 (vdd! net5) R=4.6E5
T196 (net16 net17 net17 0) nfet L=9.47E-6 W=9.11E-6
T197 (net22 net5 net5 0) pfet L=9.52E-6 W=9.15E-6
C198 (net23 net2) C=3.2E-12
R199 (net23 net7) R=9.4E0
C200 (net21 net19) C=0.5E-6
T201 (net24 net26 net26 0) pfet L=5.48E-6 W=2.33E-6
T202 (net13 net8 net8 0) nfet L=2.82E-6 W=2.76E-6
R203 (net12 net23) R=0.1E5
T204 (net19 net15 net15 0) pfet L=5.90E-6 W=3.67E-6
T205 (net9 net3 net3 0) nfet L=7.66E-6 W=1.07E-6
T206 (net1 net3 net3 0) pfet L=6.92E-6 W=8.04E-6
T207 (net13 net1 net1 0) pfet L=7.58E-6 W=1.73E-6
R208 (net3 vdd!) R=9.3E1
T209 (vdd! net15 net15 0) nfet L=1.83E-6 W=6.55E-6
T210 (net4 net13 net13 0) nfet L=5.61E-6 W=9.91E-6
C211 (net3 net10) C=0.3E-11
T212 (net1 net21 net21 0) nfet L=6.71E-6 W=7.30E-6
C213 (net22 net19) C=5.7E-10
T214 (net10 net9 net9 0) nfet L=8.26E-6 W=4.54E-6
T215 (net24 net4 net4 0) nfet L=9.97E-6 W=8.39E-6
T216 (net7 net3 net3 0) pfet L=3.68E-6 W=6.70E-6
R217 (net21 net12) R=3.7E4
T218 (net26 net19 net19 0) nfet L=2.08E-6 W=9.24E-6
T219 (net26 net13 net13 0) pfet L=6.61E-6 W=1.42E-6
R220 (net8 net3) R=8.0E2
R221 (net21 net25) R=6.0E3
T222 (net21 net1 net1 0) pfet L=4.28E-6 W=4.65E-6
R223 (net19 net18) R=3.2E3
C224 (net4 net5) C=8.2E-6
T225 (net19 vdd! vdd! 0) pfet L=2.49E-6 W=3.36E-6
T226 (net24 net22 net22 0) nfet L=4.34E-6 W=3.08E-6
T227 (net21 net17 net17 0) nfet L=1.52E-6 W=5.92E-6
T228 (net12 net13 net13 0) nfet L=5.59E-6 W=2.05E-6
R229 (vdd! net26) R=8.3E4
T230 (net11 net7 net7 0) nfet L=4.54E-6 W=8.07E-6
T231 (net19 net11 net11 0) pfet L=3.63E-6 W=3.23E-6
T232 (net22 net24 net24 0) nfet L=0.65E-6 W=6.56E-6
T233 (net4 net15 net15 0) pfet L=7.71E-6 W=0.32E-6
T234 (net9 net13 net13 0) nfet L=6.64E-6 W=2.03E-6
T235 (net22 net25 net25 0) nfet L=3.72E-6 W=6.03E-6
T236 (net13 0 0 0) nfet L=4.64E-6 W=7.30E-6
C237 (net12 net2) C=4.8E-10
T238 (net16 net4 net4 0) pfet L=7.99E-6 W=9.12E-6
T239 (net18 net11 net11 0) pfet L=9.75E-6 W=4.50E-6

